US06716851B2
4-(3-Hydroxyanilino)-2-(3-pyridinyl)-6-(trifluoromethyl)pyrimidine hydrochloride
The title compound was prepared from a mixture of 4-chloro-2-(3-pyridinyl)-6-(trifluoromethyl)pyrimidine (50 mg, 0.193 mmol), 3-aminophenol (32 mg, 0.290 mmol), and 2N HCl (150 μl) in water:ethanol (2:1, 10 ml) was refluxed for 24 h. The mixture was cooled to room temperature and the resulting crystals was filtered, washed with water, with water:ethanol (2:1) and dried to give a tan crystals (22 mg, 30%). 1H NMR (DMSO-d6): 10.17 (s, 1H), 9.36 (d, J=1.5 Hz, 1H), 8.72-8.66 (m, 2H), 7.66-7.62 (m, 1H), 7.20 (s, 1H), 7.10 (d, J=7.8 Hz, 1H), 7.05 (d, J=7.8 Hz, 1H), 7.04 (s, 1H), 7.01 (s, 1H), 6.45-6.41 (m, 1H).

reactant | 4-chloro-2-(3-pyridinyl)-6-(trifluoromethyl)pyrimidine | 0.193 mmol, 50 mg | ClC1=NC(=NC(=C1)C(F)(F)F)C=1C=NC=CC1 | C10H5ClF3N3
reactant | 3-aminophenol | 0.290 mmol, 32 mg | NC=1C=C(C=CC1)O | C6H7NO
reactant | HCl | 2N, 150 μl | Cl | ClH
solvent | water ethanol | 10 ml | O.C(C)O
product | 4-(3-Hydroxyanilino)-2-(3-pyridinyl)-6-(trifluoromethyl)pyrimidine hydrochloride | Cl.OC=1C=C(NC2=NC(=NC(=C2)C(F)(F)F)C=2C=NC=CC2)C=CC1 | InChI=1S/C16H11F3N4O.ClH/c17-16(18,19)13-8-14(21-11-4-1-5-12(24)7-11)23-15(22-13)10-3-2-6-20-9-10;/h1-9,24H,(H,21,22,23);1H
